Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea/vomiting, abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: Ms ___ is a ___ y/o F with PMHx
of depression, GERD, gastric ulcer who presents with constant
epigastric abd pain radiating to the back, nausea and 
non-bloody,
non-bilious vomiting since yesterday at 3pm.  Pain is worse with
food.  Vomiting has occurred approx. ___ times, unable to keep
down liquids or solids.  Also endorses one episode of watery
diarrhea. She last ate eggs, a protein bar, and some nacho 
cheese
chips around noon however has not eaten anything out of the
ordinary. She reports no recent alcohol use or sick contacts.  
No
fevers/chills, dysuria, chest pain, shortness of breath, or 
blood
in her stool, is having regular BMs.  Endorses poor appetite.

In the ED, initial vitals were: 97.1 73 131/65 18 99% RA.  Labs
were notable for WBC 13.3, nl LFTs.  Urine with mod leuks, sm
blood.  CXR showed no acute process. CT showed cholelithiasis
without cholecystitis, diverticulosis.  Pt was evaluated by
surgery who did not feel that his sxs were related to
cholelithiasis and recommended no surgical intervention.  Pt was
given zofran, morphine, famotidine, and LR with subsequent
improvement in sxs.

On the floor, pt states that she feels much better, abd pain
improved with only mild soreness presently and she wants to eat. 

Endorses having had sob with vomiting but this has not 
persisted.
Endorses loose stool yesterday, has not had a bm since then.  No
subjective fevers.   Pt had been taking omeprazole when she was
diagnosed with an ulcer ___ she is no longer taking this, she
does take a zanctac occ when having GERD sxs.  No dysuria,
frequency.

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or
gain. Denies headache, sinus tenderness, rhinorrhea or
congestion. Denies cough, shortness of breath. Denies chest pain
or tightness, palpitations. No dysuria. Denies arthralgias or
myalgias. 10 pt ros otherwise negative.

 
Past Medical History:
DEPRESSION 
GASTROESOPHAGEAL REFLUX 
Gastric ULCER
H/O ALCOHOL ABUSE 
APPENDECTOMY ___ 
TUBAL LIGATION ___ 
WISDOM TEETH EXTRACTION 
TONSILLECTOMY ___ 
MILD ESSENTIAL MYOCLONUS
 
Social History:
___
Family History:
Father MYOCARDIAL INFARCTION 
  ALCOHOL ABUSE 
  HYPERTENSION 
  DIABETES TYPE II 
Mother MIGRAINE HEADACHES 
  ARTHRITIS 
  MITRAL VALVE PROLAPSE 
  RAYNAUD'S PHENOMENON 
  MS
___ MYOCARDIAL INFARCTION 
  PANCREATITIS 
  DEPRESSION 
  KIDNEY STONES 
  ALCOHOL ABUSE 
MGF PANCREATIC CANCER 
  GLAUCOMA 
PGM DIABETES TYPE II 
Aunt THYROID 
  DIABETES ___ 
Aunt BREAST CANCER 
___ MYOCARDIAL INFARCTION
 
Physical Exam:
Vitals: 98.7 PO 111 / 69 72 18 97 RA 
Constitutional: Alert, oriented, no acute distress
EYES: Sclera anicteric,  EOMI, PERRL
ENMT: MMM, oropharynx clear, normal hearing, normal nares
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes,
rales, rhonchi
GI: Soft, mild epigastric tenderness, non-distended, bowel 
sounds
present, no organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: no rashes or lesions
 
Pertinent Results:
___ 07:00AM   WBC-13.3* RBC-4.65 HGB-14.3 HCT-41.7 MCV-90 
MCH-30.8 MCHC-34.3 RDW-12.5 RDWSD-41.1
___ 07:00AM   WBC-13.3* RBC-4.65 HGB-14.3 HCT-41.7 MCV-90 
MCH-30.8 MCHC-34.3 RDW-12.5 RDWSD-41.1
___ 07:00AM   ALT(SGPT)-16 AST(SGOT)-24 ALK PHOS-78 TOT 
BILI-0.4
___ 07:00AM   LIPASE-35
___ 07:00AM   cTropnT-<0.01
___ 07:00AM   GLUCOSE-127* UREA N-13 CREAT-0.9 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-103 TOTAL CO2-24 ANION GAP-___ with PMHx depression, GERD, PUD admitted with episode of 
severe nausea, vomiting, and abdominal pain without clear 
precipitant.  Seen by Surgery in ED, low suspicion for 
symptomatic cholelithiasis.  Admitted to medical ward for 
further evaluation and management, soon thereafter reported 
complete resolution of nausea/vomiting, and only mild residual 
abdominal "soreness" she attributes to repeated retching.  Given 
self-limited course of such severe symptoms, favor self-limited 
foodborne vs viral gastroenteritis.  Diet advanced at breakfast 
and lunch without subsequent complication.  SBP ___ without 
symptoms, ambulated with nurse without light-headedness or gait 
instability.  Additional 500cc LR bolus given.  Patient then 
discharged to home with instructions to continue POs as 
tolerated.  Patient states that she is newly-establishing PCP at 
___, has appointment in ___. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 10 mg PO DAILY 
2. Excedrin Extra Strength (aspirin-acetaminophen-caffeine) 
250-250-65 mg oral 1X/WEEK prn ha 
3. OTC Ranitidine Dose is Unknown  PO APPROX 3X/WK PRN GERD 

 
Discharge Medications:
1.  Citalopram 10 mg PO DAILY  
2.  Excedrin Extra Strength (aspirin-acetaminophen-caffeine) 
250-250-65 mg oral 1X/WEEK prn ha  
3.  OTC Ranitidine as needed

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Suspected gastroenteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Resume normal diet as tolerated.
 
Followup Instructions:
___